US05688795
The 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide (0.19 g, 0.40 mmol) was dissolved in methylene chloride and the solution was treated with excess hydrochloric acid in methanol and concentrated to dryness. The residue was triturated with ethyl acetate and dried to give 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N -dimethylnicotinamide hydrochloride. Anal.: Calcd. for C22H30 BrN5O2.(HCl)2.H2O: C, 46.96; H, 6.37; N, 11.60%; Found: C, 46.56H, 6.37; N, 11.60%.

reactant | 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide | 0.40 mmol, 0.19 g | BrC1=CC(=C(C=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1)OC | C22H30BrN5O2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N -dimethylnicotinamide hydrochloride | Cl.BrC1=CC(=C(C=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1)OC | InChI=1S/C22H30BrN5O2.ClH/c1-26(2)22(29)18-6-4-9-24-21(18)25-10-5-11-27-12-14-28(15-13-27)19-8-7-17(23)16-20(19)30-3;/h4,6-9,16H,5,10-15H2,1-3H3,(H,24,25);1H
